US04238621
N-[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-(2-chloroethoxycarbonyl)benzenesulfonamide
To 0.7 g of 2-amino-4-methoxy-6-methyl-1,3,5-triazine in 10 ml anhydrous methylene chloride solvent was added 1.45 g 2-(β-chloroethoxycarbonyl)benzenesulfonyl isocyanate with stirring at ambient temperature. The mixture was thereafter stirred for sixteen hours. The solvent was evaporated under reduced pressure and the residue triturated with hexane and filtered to yield 1.72 g of compound which melted at 167°-170° C. The solid showed infrared absorption peaks at 1700 and 1705 cm-1, consistent for N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-(2-chloroethoxycarbonyl)benzenesulfonamide.

reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 0.7 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
reactant | 2-(β-chloroethoxycarbonyl)benzenesulfonyl isocyanate | 1.45 g | ClCCOC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C10H8ClNO5S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-(2-chloroethoxycarbonyl)benzenesulfonamide | 1.72 g | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OCCCl | C15H16ClN5O6S
